US05821246
Using an analogous procedure to that described in the first paragraph of the portion of Example 8 which is concerned with the preparation of starting materials, 3-chloro-4-fluoronitrobenzene was reacted with 1-methyl-2-imidazolethiol to give 2-chloro-4-nitrophenyl 1-methylimidazol-2-yl sulphide in 87% yield.

reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 1-methyl-2-imidazolethiol | CN1C(=NC=C1)S | C4H6N2S
product | 2-chloro-4-nitrophenyl 1-methylimidazol-2-yl sulphide | 87% yield | CN1C(=NC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C10H8ClN3O2S
